US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[3-fluoro-4-(2-hydroxyethoxy)phenyl]isoquinoline
The resulting 1-(4-ethylpiperazin-1-yl)-3-{3-fluoro-4-[2-(tert-butyldimethylsilyloxy)ethoxy]phenyl}isoquinoline (0.62 g) was dissolved in tetrahydrofuran (6 ml), to which was then added 1.0M tetrabutylammonium fluoride/tetrahydrofuran solution (1.46 ml), and the mixture was stirred for 2 hr. The solvent was evaporated, and the resulting residue was dissolved in ethyl acetate, washed with water (three times) and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 0.42 g of the free compound of the title compound as a yellow powder.

reactant | 1-(4-ethylpiperazin-1-yl)-3-{3-fluoro-4-[2-(tert-butyldimethylsilyloxy)ethoxy]phenyl}isoquinoline | 0.62 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)OCCO[Si](C)(C)C(C)(C)C)F | C29H40FN3O2Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0M, 1.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylpiperazin-1-yl)-3-[3-fluoro-4-(2-hydroxyethoxy)phenyl]isoquinoline | 0.42 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)OCCO)F | C23H26FN3O2
